US07973078B2
35.8 g of ethyl N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine was dissolved in 157 mL of ethanol and 157 mL of 1,4-dioxane, and 157 mL of a 1 M aqueous sodium hydroxide solution was added thereto, followed by stirring at 60° C. overnight. The reaction liquid was cooled to room temperature, and then concentrated under reduced pressure. The residue was dissolved in water, acidified by addition of 1 M hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 29.3 g of N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine.

reactant | ethyl N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine | 35.8 g | C(C)C(N(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C(=CC=C1)Cl)C)C(=O)O | C18H20ClNO4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 157 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 157 mL | O1CCOCC1 | C4H8O2
product | N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine | 29.3 g | ClC=1C(=C(C=CC1)N(CC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C)C | C16H16ClNO4S
